US07220744B2
(b) 2-Cyclobutylmethoxy-5-methanesulfonyl-benzoic acid
To 6.51 mmol 2-cyclobutylmethoxy-5-methanesulfonyl-benzoic acid methyl ester in 20 ml tetrahydrofuran was added 40 mmol 2 N aq NaOH solution and the reaction mixture was stirred at 60° C. for 2 hours. After such time the reaction mixture was acidified by addition of concentrated HCl and extracted twice with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. The residue was triturated in ether to give the title compound as a white solid (40% over 2 steps). MS (m/e): 283.3 ([M−H]−, 100%).

reactant | 2-cyclobutylmethoxy-5-methanesulfonyl-benzoic acid methyl ester | 6.51 mmol | COC(C1=C(C=CC(=C1)S(=O)(=O)C)OCC1CCC1)=O | C14H18O5S
reactant | NaOH | 40 mmol, 2 N | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Cyclobutylmethoxy-5-methanesulfonyl-benzoic acid | 40% | C1(CCC1)COC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C13H16O5S
